US08022223B2
Step C: Preparation of tert-Butyl 4-((2-(5-bromo-3-(4-fluorophenoxy)pyridin-2-ylamino)thiazol-4-yl)methyl)-3-oxopiperazine-1-carboxylate.
In a 20 mL scintillation vial equipped with magnetic stirrer 1-(5-bromo-3-(4-fluorophenoxy)pyridin-2-yl)thiourea (0.25 g, 0.73 mmol) was suspended in ethanol (5 ml) and tert-butyl 4-(3-chloro-2-oxopropyl)-3-oxopiperazine-1-carboxylate (0.32 g, 1.10 mmol) was added followed by DIEA (0.22 mL, 1.28 mmol). Resulting mixture was heated to 60° C. and agitated for 3 hours. Mixture was then diluted with ethyl acetate and washed with sodium bicarbonate solution, brine, dried and evaporated. Purified by column chromatography on silica gel, eluting with 50-100% ethyl acetate/hexane to give the title compound (0.106 g, 25.1% yield). 1H NMR (CDCl3) δ 1.41 (s, 9H), 2.79-3.42 (m, 6H), 6.55 (s, 2H), 7.03-7.12 (m, 4H), 8.12 (s, 1H), 8.95 (bs, 1H).

reactant | 1-(5-bromo-3-(4-fluorophenoxy)pyridin-2-yl)thiourea | 0.73 mmol, 0.25 g | BrC=1C=C(C(=NC1)NC(=S)N)OC1=CC=C(C=C1)F | C12H9BrFN3OS
reactant | tert-butyl 4-(3-chloro-2-oxopropyl)-3-oxopiperazine-1-carboxylate | 1.10 mmol, 0.32 g | ClCC(CN1C(CN(CC1)C(=O)OC(C)(C)C)=O)=O | C12H19ClN2O4
reactant | DIEA | 1.28 mmol, 0.22 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-((2-(5-bromo-3-(4-fluorophenoxy)pyridin-2-ylamino)thiazol-4-yl)methyl)-3-oxopiperazine-1-carboxylate | 0.106 g, 25.1% yield | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CN1C(CN(CC1)C(=O)OC(C)(C)C)=O)OC1=CC=C(C=C1)F | C24H25BrFN5O4S
